US07772243B2
(3-Chloro-4-fluoro-phenyl)-(7-fluoro-6-nitro-quinazolin-4-yl)-amine was suspended in 100 ml methanol and 2 ml 50% NaOH in water was added and the mixture was heated at 70° C. for 2 hours. The mixture was then poured into water and stirred vigorously for 30 minutes, then filtered and washed with water and dried under vacuum at 60° C. overnight to give 7.2 g of (3-Chloro-4-fluoro-phenyl)-(7-methoxy-6-nitro-quinazolin-4-yl)-amine.

reactant | (3-Chloro-4-fluoro-phenyl)-(7-fluoro-6-nitro-quinazolin-4-yl)-amine | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])F | C14H7ClF2N4O2
reactant | NaOH | 2 ml | [OH-].[Na+]
reactant | methanol | 100 ml | CO | CH4O
solvent | water | O | H2O
product | (3-Chloro-4-fluoro-phenyl)-(7-methoxy-6-nitro-quinazolin-4-yl)-amine | 7.2 g | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])OC | C15H10ClFN4O3
